US07868008B2
2-Cyclopropylmethyl-5-iodo-7-methyl-2,3-dihydro-isoindol-1-one
To a solution of 5-Bromo-7-methyl-2-cyclopropylmethyl-2,3-dihydro-isoindol-1-one (1.0 g, 3.56 mmol) in butanol (10 ml), (1R,2R)-N,N′-dimethylcyclohexane-1,2-diamine (204 mg, 1.42 mmol), copper(I) iodide (140 mg, 0.714 mmol) and sodium iodide (1.08 g, 14.3 mmol) were added. The resulting mixture was stirred at 120° C. overnight. After cooling, the mixture was diluted with ethyl acetate, washed with water, brine, dried over anhydrous sodium sulphate, filtered, concentrated. Column chromatography (30% EtOAc/Hexanes) provided the title compound (1.07 g, 92%) as a colourless solid. 1H NMR (300 MHz, CDCl3): δ 7.65 (s, 1H), 7.59 (s, 1H), 4.42 (s, 2H), 3.46-3.44 (d, 2H), 2.70 (s, 3H), 1.04-1.02 (m, 1H), 0.61-0.57 (m, 2H), 0.34-0.31 (m, 2H)

reactant | 5-Bromo-7-methyl-2-cyclopropylmethyl-2,3-dihydro-isoindol-1-one | 3.56 mmol, 1.0 g | BrC=1C=C2CN(C(C2=C(C1)C)=O)CC1CC1 | C13H14BrNO
reactant | (1R,2R)-N,N′-dimethylcyclohexane-1,2-diamine | 1.42 mmol, 204 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | sodium iodide | 14.3 mmol, 1.08 g | [I-].[Na+]
solvent | butanol | 10 ml | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.714 mmol, 140 mg | [Cu]I
product | 2-Cyclopropylmethyl-5-iodo-7-methyl-2,3-dihydro-isoindol-1-one | 1.07 g, 92% | C1(CC1)CN1C(C2=C(C=C(C=C2C1)I)C)=O | C13H14INO
